US05238939
A mixture of 54 g of 1-(4-fluorophenyl)ethanone, 39,1 g of dimethylamine hydrochloride, 14,4 g of paraformaldehyde, and 10 ml of 36% hydrochloric acid was refluxed for 2 h in 500 ml of ethanol. The ethanol was evaporated and ethyl acetate was added, after which 79 g (82%) of 1-(4-fluorophenyl)-3-(dimethyl-amino)-propanone hydrochloride was obtained.

reactant | 1-(4-fluorophenyl)ethanone | 54 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | dimethylamine hydrochloride | 39,1 g | Cl.CNC
reactant | paraformaldehyde | 14,4 g | C=O | CH2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-3-(dimethyl-amino)-propanone hydrochloride | 79 g, 82% | Cl.FC1=CC=C(C=C1)CC(CN(C)C)=O | InChI=1S/C11H14FNO.ClH/c1-13(2)8-11(14)7-9-3-5-10(12)6-4-9;/h3-6H,7-8H2,1-2H3;1H
